* Extracted by KLayout with SKY130 LVS runset on : 12/09/2026 19:37

.SUBCKT user_analog_project_wrapper VDDA1 VSS|VSSA1 io_analog[0] io_analog[1]
+ io_analog[2] io_analog[3] io_analog[4] io_clamp_high[0] io_clamp_high[1]
+ io_clamp_high[2] io_clamp_low[0] io_clamp_low[1] io_clamp_low[2] io_in[10]
+ io_in[11] io_in[12] io_in[13] io_in[14] io_in[15] io_in[16] io_in[17]
+ io_in[18] io_in[5] io_in[6] io_in[7] io_in[8] io_in[9] io_out[19] io_out[20]
X$1 io_analog[1] io_in[18] VSS|VSSA1 io_in[17] io_in[16] io_in[15] io_in[5]
+ io_in[6] io_in[7] io_in[8] io_analog[0] VDDA1 io_in[9] io_analog[2] io_in[10]
+ io_in[11] io_in[12] io_analog[3] io_analog[4] io_out[19] io_in[14] io_out[20]
+ io_in[13] eeg_afe_top
R$1 VSS|VSSA1 io_clamp_high[2] sky130_fd_pr__res_generic_m3 R=1.06818181818
+ L=0.25 W=11 A=2.75 P=22.5
R$2 VSS|VSSA1 io_clamp_low[2] sky130_fd_pr__res_generic_m3 R=1.06818181818
+ L=0.25 W=11 A=2.75 P=22.5
R$3 VSS|VSSA1 io_clamp_low[1] sky130_fd_pr__res_generic_m3 R=1.06818181818
+ L=0.25 W=11 A=2.75 P=22.5
R$4 VSS|VSSA1 io_clamp_high[1] sky130_fd_pr__res_generic_m3 R=1.06818181818
+ L=0.25 W=11 A=2.75 P=22.5
R$5 VSS|VSSA1 io_clamp_low[0] sky130_fd_pr__res_generic_m3 R=1.06818181818
+ L=0.25 W=11 A=2.75 P=22.5
R$6 io_analog[4] io_clamp_high[0] sky130_fd_pr__res_generic_m3 R=1.06818181818
+ L=0.25 W=11 A=2.75 P=22.5
.ENDS user_analog_project_wrapper

.SUBCKT eeg_afe_top ELN S64 VSS S32 S16 S8 PHII NPHII PHIBI NPHIBI ELP VDD18
+ PHIM VCM_REF NPHIM PHIBM NPHIBM VP VN BIT NCLK16 NBIT CLK16
X$1 ELN S64 VSS S32 S16 S8 VSS VDD18 \$19 \$18 PHIBI PHII NPHII NPHIBI ELP
+ VCM_REF NPHIM PHIM NPHIBM PHIBM eeg_afe_pga
X$2 \$19 \$18 VDD18 VN BIT VP \$27 VSS NBIT \$26 NCLK16 CLK16 VCM_REF eeg_sdm1ct
.ENDS eeg_afe_top

.SUBCKT eeg_sdm1ct VINP VINN VDD18 VN BIT VP OINTN VSS NBIT OINTP NCLK CLK
+ VCM_REF
X$11 VDD18 VSS \$20 BIT VP \$9 eeg_tg_lowq
X$12 VDD18 VSS BIT \$20 VN \$9 eeg_tg_lowq
X$19 VDD18 VSS \$20 BIT VN \$14 eeg_tg_lowq
X$20 VDD18 VSS BIT \$20 VP \$14 eeg_tg_lowq
X$25 VSS OINTP OINTN \$33 \$34 VCM_REF VDD18 eeg_fd_ota_full2_nc
X$26 VSS VDD18 BIT \$20 eeg_inv
X$27 VSS VDD18 \$30 NBIT BIT eeg_nand2
X$28 CLK VSS OINTN OINTP \$28 \$30 VDD18 eeg_strongarm
X$29 VSS VDD18 \$28 BIT NBIT eeg_nand2
X$30 OINTN \$33 eeg_pseudo_res
X$31 OINTP \$34 eeg_pseudo_res
C$1 \$28 VSS sky130_fd_pr__model__cap_mim C=1e-12 A=500 P=130
C$3 \$30 VSS sky130_fd_pr__model__cap_mim C=1e-12 A=500 P=130
C$5 OINTN \$33 sky130_fd_pr__model__cap_mim C=2e-11 A=10000 P=2000
C$30 OINTP \$34 sky130_fd_pr__model__cap_mim C=2e-11 A=10000 P=2000
R$56 \$33 VINP VSS sky130_fd_pr__res_xhigh_po_0p69 R=500000 L=172.5 W=0.69
+ A=119.025 P=351.9
R$61 \$34 VINN VSS sky130_fd_pr__res_xhigh_po_0p69 R=500000 L=172.5 W=0.69
+ A=119.025 P=351.9
R$68 \$9 \$33 VSS sky130_fd_pr__res_xhigh_po_0p69 R=500000 L=172.5 W=0.69
+ A=119.025 P=351.9
R$71 \$14 \$34 VSS sky130_fd_pr__res_xhigh_po_0p69 R=500000 L=172.5 W=0.69
+ A=119.025 P=351.9
.ENDS eeg_sdm1ct

.SUBCKT eeg_afe_pga ELN S64 RST S32 S16 S8 VSS VDD18 OUTP OUTN PHIBI PHII NPHII
+ NPHIBI ELP VCM_REF NPHIM PHIM NPHIBM PHIBM
X$1 VSS OUTN OUTP PHIM NPHIM PHII \$2 \$22 PHIBM NPHIBM NPHII PHIBI NPHIBI
+ VDD18 VCM_REF eeg_fd_ota_chopped_full2
X$2 VDD18 VSS \$4 RST VCM_REF \$2 eeg_tg_lowq
X$3 VDD18 VSS \$6 S16 \$2 \$37 eeg_tg_lowq
X$4 VDD18 VSS \$7 S8 \$2 \$36 eeg_tg_lowq
X$5 VDD18 VSS \$5 S32 \$2 \$35 eeg_tg_lowq
X$6 \$2 VCM_REF eeg_pseudo_res
X$7 VSS VDD18 RST \$4 eeg_inv
X$8 VDD18 VSS \$4 RST VCM_REF \$22 eeg_tg_lowq
X$9 VSS VDD18 S32 \$5 eeg_inv
X$10 VDD18 VSS \$5 S32 \$22 \$25 eeg_tg_lowq
X$11 VSS VDD18 S16 \$6 eeg_inv
X$12 VDD18 VSS \$6 S16 \$22 \$30 eeg_tg_lowq
X$13 VSS VDD18 S8 \$7 eeg_inv
X$14 VDD18 VSS \$7 S8 \$22 \$33 eeg_tg_lowq
X$15 \$22 VCM_REF eeg_pseudo_res
C$1 ELN \$2 sky130_fd_pr__model__cap_mim C=3.2e-11 A=16000 P=3200
C$41 ELP \$22 sky130_fd_pr__model__cap_mim C=3.2e-11 A=16000 P=3200
C$81 OUTN \$25 sky130_fd_pr__model__cap_mim C=5e-13 A=250 P=65
C$82 OUTN \$22 sky130_fd_pr__model__cap_mim C=5e-13 A=250 P=65
C$83 OUTN \$30 sky130_fd_pr__model__cap_mim C=1.5e-12 A=750 P=195
C$86 OUTN \$33 sky130_fd_pr__model__cap_mim C=3.5e-12 A=1750 P=455
C$93 OUTP \$2 sky130_fd_pr__model__cap_mim C=5e-13 A=250 P=65
C$94 OUTP \$35 sky130_fd_pr__model__cap_mim C=5e-13 A=250 P=65
C$95 OUTP \$36 sky130_fd_pr__model__cap_mim C=3.5e-12 A=1750 P=455
C$96 OUTP \$37 sky130_fd_pr__model__cap_mim C=1.5e-12 A=750 P=195
.ENDS eeg_afe_pga

.SUBCKT eeg_nand2 VSS VDD18 A B Y
M$1 Y B VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=2 AS=2.04 AD=2.04 PS=6.04
+ PD=6.04
M$2 Y A VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=2 AS=2.04 AD=2.04 PS=6.04
+ PD=6.04
M$3 \$6 B VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 AS=1.02 AD=1.02 PS=4.04
+ PD=4.04
M$4 Y A \$6 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 AS=1.02 AD=1.02 PS=4.04
+ PD=4.04
.ENDS eeg_nand2

.SUBCKT eeg_strongarm CLK VSS INN INP OUTN OUTP VDD18
M$1 VDD18 CLK \$6 VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=1 AS=1.02 AD=1.02
+ PS=4.04 PD=4.04
M$2 VDD18 CLK \$7 VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=1 AS=1.02 AD=1.02
+ PS=4.04 PD=4.04
M$3 \$6 OUTP OUTN VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 AS=0.275 AD=0.275
+ PS=2.6 PD=2.6
M$5 \$7 OUTN OUTP VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 AS=0.275 AD=0.275
+ PS=2.6 PD=2.6
M$7 VDD18 CLK OUTP VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=2 AS=1.27 AD=1.27
+ PS=5.54 PD=5.54
M$9 VDD18 CLK OUTN VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=2 AS=1.27 AD=1.27
+ PS=5.54 PD=5.54
M$11 VDD18 OUTN OUTP VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=1 AS=0.275 AD=0.275
+ PS=2.6 PD=2.6
M$13 VDD18 OUTP OUTN VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=1 AS=0.275 AD=0.275
+ PS=2.6 PD=2.6
M$15 \$3 INP \$6 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=4 AS=1.77 AD=1.77 PS=8.54
+ PD=8.54
M$19 \$3 INN \$7 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=4 AS=1.77 AD=1.77 PS=8.54
+ PD=8.54
M$23 VSS CLK \$3 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=8 AS=3.54 AD=3.54
+ PS=13.54 PD=13.54
.ENDS eeg_strongarm

.SUBCKT eeg_fd_ota_full2_nc VSS OUTP OUTN INP INN VCM_REF VDD18
X$1 VSS \$2 \$3 VCM_REF VDD18 \$14 eeg_cmfb_amp_dl2_s2
X$2 OUTP OUTN \$6 VSS \$7 \$14 \$3 VCM_REF VDD18 stage2
X$3 VSS \$2 VDD18 eeg_bias_gen
X$4 VSS \$2 \$11 VCM_REF VDD18 \$8 eeg_cmfb_amp_dl2
X$5 VSS \$2 INN INP \$7 \$6 \$8 \$11 VCM_REF VDD18 eeg_fd_ota_core_soft
.ENDS eeg_fd_ota_full2_nc

.SUBCKT eeg_inv VSS VDD18 A Y
M$1 Y A VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=2 AS=2.04 AD=2.04 PS=6.04
+ PD=6.04
M$2 Y A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 AS=1.02 AD=1.02 PS=4.04
+ PD=4.04
.ENDS eeg_inv

.SUBCKT eeg_fd_ota_chopped_full2 VSS OUTN OUTP PHIM NPHIM PHII INN INP PHIBM
+ NPHIBM NPHII PHIBI NPHIBI VDD18 VCM_REF
X$1 VDD18 VSS \$2 \$1 NPHIM \$10 \$11 PHIM PHIBM NPHIBM eeg_cmos_chopper_lowq
X$2 OUTP OUTN \$2 VSS \$1 \$26 \$5 VCM_REF VDD18 stage2
X$3 VSS \$3 \$8 \$9 \$11 \$10 \$17 \$23 VCM_REF VDD18 eeg_fd_ota_core_soft
X$4 VSS \$3 \$23 VCM_REF VDD18 \$17 eeg_cmfb_amp_dl2
X$5 VSS \$3 VDD18 eeg_bias_gen
X$6 VSS \$3 \$5 VCM_REF VDD18 \$26 eeg_cmfb_amp_dl2_s2
X$7 VDD18 VSS \$9 \$8 NPHII INP INN PHII PHIBI NPHIBI eeg_cmos_chopper_lowq
.ENDS eeg_fd_ota_chopped_full2

.SUBCKT eeg_bias_gen VSS VBNF VDD18
X$105 VDD18 VBN eeg_pseudo_res
C$1 VSS VBNF sky130_fd_pr__model__cap_mim C=1e-10 A=50000 P=10000
M$126 VSS VBN VBN VSS sky130_fd_pr__nfet_01v8 L=4 W=10 AS=6.35 AD=6.35 PS=17.54
+ PD=17.54
M$128 \$105 VBN VBP VSS sky130_fd_pr__nfet_01v8 L=4 W=40 AS=13.85 AD=13.85
+ PS=50.54 PD=50.54
R$136 VSS \$105 VSS sky130_fd_pr__res_xhigh_po_0p69 R=24985.5072464 L=8.62
+ W=0.69 A=5.9478 P=18.62
M$137 VDD18 VBP VBP VDD18 sky130_fd_pr__pfet_01v8 L=4 W=10 AS=6.35 AD=6.35
+ PS=17.54 PD=17.54
R$237 VBNF VBN VSS sky130_fd_pr__res_xhigh_po_0p69 R=10000000 L=3450 W=0.69
+ A=2380.5 P=7038
M$239 VDD18 VBP VBN VDD18 sky130_fd_pr__pfet_01v8 L=4 W=10 AS=6.35 AD=6.35
+ PS=17.54 PD=17.54
.ENDS eeg_bias_gen

.SUBCKT stage2 OUTP OUTN N2P VSS N2N VBP2 VCM2 VCM_REF VDD18
C$1 OUTP \$3 sky130_fd_pr__model__cap_mim C=1e-11 A=5000 P=1300
C$21 OUTN \$4 sky130_fd_pr__model__cap_mim C=1e-11 A=5000 P=1300
R$41 \$3 N2P VSS sky130_fd_pr__res_xhigh_po_0p69 R=20000 L=6.9 W=0.69 A=4.761
+ P=15.18
R$42 \$4 N2N VSS sky130_fd_pr__res_xhigh_po_0p69 R=20000 L=6.9 W=0.69 A=4.761
+ P=15.18
M$43 VSS N2P OUTP VSS sky130_fd_pr__nfet_01v8 L=12 W=12 AS=7.62 AD=7.62
+ PS=20.54 PD=20.54
M$45 VSS N2N OUTN VSS sky130_fd_pr__nfet_01v8 L=12 W=12 AS=7.62 AD=7.62
+ PS=20.54 PD=20.54
M$47 VDD18 VBP2 OUTP VDD18 sky130_fd_pr__pfet_01v8 L=12 W=48 AS=16.62 AD=16.62
+ PS=59.54 PD=59.54
R$86 VCM_REF OUTN VSS sky130_fd_pr__res_xhigh_po_0p69 R=2000000 L=690 W=0.69
+ A=476.1 P=1407.6
R$93 VCM_REF OUTP VSS sky130_fd_pr__res_xhigh_po_0p69 R=2000000 L=690 W=0.69
+ A=476.1 P=1407.6
R$123 VCM2 OUTP VSS sky130_fd_pr__res_xhigh_po_0p69 R=5000000 L=1725 W=0.69
+ A=1190.25 P=3519
R$128 VCM2 OUTN VSS sky130_fd_pr__res_xhigh_po_0p69 R=5000000 L=1725 W=0.69
+ A=1190.25 P=3519
M$195 VDD18 VBP2 OUTN VDD18 sky130_fd_pr__pfet_01v8 L=12 W=48 AS=16.62 AD=16.62
+ PS=59.54 PD=59.54
.ENDS stage2

.SUBCKT eeg_cmfb_amp_dl2_s2 VSS VBN VCM_SENSE VCM_REF VDD18 VBP
M$1 VSS VBN \$5 VSS sky130_fd_pr__nfet_01v8 L=4 W=12 AS=7.62 AD=7.62 PS=20.54
+ PD=20.54
M$3 VDD18 VBP VBP VDD18 sky130_fd_pr__pfet_01v8 L=4 W=0.5 AS=0.15 AD=0.15
+ PS=1.6 PD=1.6
M$4 VDD18 \$6 \$6 VDD18 sky130_fd_pr__pfet_01v8 L=2 W=2 AS=2.04 AD=2.04 PS=6.04
+ PD=6.04
M$5 \$5 VCM_REF VBP VSS sky130_fd_pr__nfet_01v8 L=2 W=2 AS=2.04 AD=2.04 PS=6.04
+ PD=6.04
M$6 \$5 VCM_SENSE \$6 VSS sky130_fd_pr__nfet_01v8 L=2 W=2 AS=2.04 AD=2.04
+ PS=6.04 PD=6.04
.ENDS eeg_cmfb_amp_dl2_s2

.SUBCKT eeg_cmfb_amp_dl2 VSS VBN VCM_SENSE VCM_REF VDD18 VBP
M$1 VSS VBN \$5 VSS sky130_fd_pr__nfet_01v8 L=4 W=12 AS=7.62 AD=7.62 PS=20.54
+ PD=20.54
M$3 VDD18 VBP VBP VDD18 sky130_fd_pr__pfet_01v8 L=4 W=4 AS=4.08 AD=4.08
+ PS=10.04 PD=10.04
M$4 VDD18 \$6 \$6 VDD18 sky130_fd_pr__pfet_01v8 L=2 W=2 AS=2.04 AD=2.04 PS=6.04
+ PD=6.04
M$5 \$5 VCM_REF VBP VSS sky130_fd_pr__nfet_01v8 L=2 W=2 AS=2.04 AD=2.04 PS=6.04
+ PD=6.04
M$6 \$5 VCM_SENSE \$6 VSS sky130_fd_pr__nfet_01v8 L=2 W=2 AS=2.04 AD=2.04
+ PS=6.04 PD=6.04
.ENDS eeg_cmfb_amp_dl2

.SUBCKT eeg_fd_ota_core_soft VSS VBN INN INP OUTN OUTP VBP VCM_SENSE VCM_REF
+ VDD18
M$1 VDD18 VBP OUTP VDD18 sky130_fd_pr__pfet_01v8 L=4 W=48 AS=16.62 AD=16.62
+ PS=59.54 PD=59.54
R$25 VCM_REF OUTP VSS sky130_fd_pr__res_xhigh_po_0p69 R=2000000 L=690 W=0.69
+ A=476.1 P=1407.6
R$77 VCM_SENSE OUTP VSS sky130_fd_pr__res_xhigh_po_0p69 R=5000000 L=1725 W=0.69
+ A=1190.25 P=3519
R$97 OUTN VCM_REF VSS sky130_fd_pr__res_xhigh_po_0p69 R=2000000 L=690 W=0.69
+ A=476.1 P=1407.6
R$103 OUTN VCM_SENSE VSS sky130_fd_pr__res_xhigh_po_0p69 R=5000000 L=1725
+ W=0.69 A=1190.25 P=3519
M$149 VDD18 VBP OUTN VDD18 sky130_fd_pr__pfet_01v8 L=4 W=48 AS=16.62 AD=16.62
+ PS=59.54 PD=59.54
M$157 VSS VBN \$73 VSS sky130_fd_pr__nfet_01v8 L=4 W=96 AS=28.62 AD=28.62
+ PS=111.54 PD=111.54
M$173 \$73 VSS OUTP VSS sky130_fd_pr__nfet_01v8 L=4 W=20 AS=19.9 AD=19.9
+ PS=33.98 PD=33.98
M$174 OUTP INP \$73 VSS sky130_fd_pr__nfet_01v8 L=4 W=240 AS=60 AD=60 PS=252
+ PD=252
M$175 \$73 INN OUTN VSS sky130_fd_pr__nfet_01v8 L=4 W=240 AS=60 AD=60 PS=252
+ PD=252
.ENDS eeg_fd_ota_core_soft

.SUBCKT eeg_cmos_chopper_lowq VDD18 VSS OUTP OUTN NPHI INP INN PHI PHIB NPHIB
X$1 VDD18 VSS NPHI PHI OUTP INP eeg_tg_lowq
X$2 VDD18 VSS NPHIB PHIB OUTP INN eeg_tg_lowq
X$3 VDD18 VSS NPHIB PHIB OUTN INP eeg_tg_lowq
X$4 VDD18 VSS NPHI PHI OUTN INN eeg_tg_lowq
.ENDS eeg_cmos_chopper_lowq

.SUBCKT eeg_pseudo_res A B
M$1 \$3 \$3 B B sky130_fd_pr__pfet_01v8 L=4 W=1 AS=1.02 AD=1.02 PS=4.04 PD=4.04
M$2 \$3 \$3 A A sky130_fd_pr__pfet_01v8 L=4 W=1 AS=1.02 AD=1.02 PS=4.04 PD=4.04
.ENDS eeg_pseudo_res

.SUBCKT eeg_tg_lowq VDD18 VSS ENB EN B A
M$1 A EN A VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 AS=0.5544 AD=0.5544 PS=3
+ PD=3
M$2 A ENB A VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 AS=0.126 AD=0.126 PS=1.44
+ PD=1.44
M$3 B EN B VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 AS=0.5544 AD=0.5544 PS=3
+ PD=3
M$4 A ENB B VDD18 sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 AS=1.7136 AD=1.7136
+ PS=5.4 PD=5.4
M$5 B ENB B VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 AS=0.126 AD=0.126 PS=1.44
+ PD=1.44
M$6 A EN B VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 AS=0.5544 AD=0.5544 PS=3
+ PD=3
.ENDS eeg_tg_lowq
